US08445510B2
Ethyl trans-4-(4-{3-[(1S)-1-(2-chloro-3-fluoro-6-methoxyphenyl)ethyl]-1H-pyrrolo[2,3-b]pyridin-5-yl}-3,5-dimethyl-1H-pyrazol-1-yl)cyclohexanecarboxylate
A mixture of 5-bromo-3-[(S)-1-(2-chloro-3-fluoro-6-methoxyphenyl)-ethyl]-1H-pyrrolo[2,3-b]pyridine (57.8 mg, 0.150 mmol), ethyl trans-4-[3,5-dimethyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazol-1-yl]cyclohexanecarboxylate (62.3 mg, 0.166 mmol), Pd(PPh3)4 (8.70 mg, 0.00753 mmol), potassium fluoride (26.2 mg, 0.452 mmol) and 4:1 dioxane:H2O (3 mL, 30 mmol) was heated to 90° C. for 2 h. The organic solvent was removed in vacuo, and the material was extracted with DCM and water. The organic layer was purified via column chromatography, eluting with 1-3% MeOH/DCM. The fractions containing the pure product were concentrated in vacuo to afford the title compound as a white solid. MS (ES+): m/z=553.24/555.24 (100/50) [MH+]. HPLC: tR=1.71 min (polar—3 min, UPLC-ACQUITY).

reactant | 5-bromo-3-[(S)-1-(2-chloro-3-fluoro-6-methoxyphenyl)-ethyl]-1H-pyrrolo[2,3-b]pyridine | 0.150 mmol, 57.8 mg | BrC=1C=C2C(=NC1)NC=C2[C@H](C)C2=C(C(=CC=C2OC)F)Cl | C16H13BrClFN2O
reactant | ethyl trans-4-[3,5-dimethyl-4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrazol-1-yl]cyclohexanecarboxylate | 0.166 mmol, 62.3 mg | CC1=NN(C(=C1B1OC(C(O1)(C)C)(C)C)C)[C@@H]1CC[C@H](CC1)C(=O)OCC | C20H33BN2O4
reactant | potassium fluoride | 0.452 mmol, 26.2 mg | [F-].[K+]
reactant | H2O | 30 mmol, 3 mL | O | H2O
catalyst | Pd(PPh3)4 | 0.00753 mmol, 8.70 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | dioxane | O1CCOCC1 | C4H8O2
product | Ethyl trans-4-(4-{3-[(1S)-1-(2-chloro-3-fluoro-6-methoxyphenyl)ethyl]-1H-pyrrolo[2,3-b]pyridin-5-yl}-3,5-dimethyl-1H-pyrazol-1-yl)cyclohexanecarboxylate | ClC1=C(C(=CC=C1F)OC)[C@@H](C)C1=CNC2=NC=C(C=C21)C=2C(=NN(C2C)[C@@H]2CC[C@H](CC2)C(=O)OCC)C | C30H34ClFN4O3
